US04416682
Sodium hydride (50% suspension in oil--2.23 g) was suspended in dimethylformamide (30 ml) under an atmosphere of argon, and cooled in a water bath while imidazole (3.2 g) was added in portions. A solution of 2-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-ylmethyl)oxirane (6.4 g) in dimethylformamide (30 ml) was added, and the mixture was heated at 80° C. for 2 hours. The mixture was cooled, poured into water (200 ml) and extracted with methylene dichloride. The organic extract was washed with water twice and with brine twice, dried over sodium sulphate and filtered. The solvent was evaporated under reduced pressure, and the residue was chromatographed on a K60 silica column, eluting with 0 to 7% of methanol in methylene dichloride, to give 2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-3-(1,2,4-triazol-1-yl)-2-propanol, m.p. 169°-170° C.

reactant | Sodium hydride | -2.23 g | [H-].[Na+]
reactant | imidazole | 3.2 g | N1C=NC=C1 | C3H4N2
reactant | 2-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-ylmethyl)oxirane | 6.4 g | ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1N=CN=C1 | C11H9Cl2N3O
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-3-(1,2,4-triazol-1-yl)-2-propanol | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)(CN1N=CN=C1)O | C14H13Cl2N5O
